** Pulse Modulations

.lib LTspiceControlLibrary\Sources.lib

.subckt PWM I P
X1 C 0 TriangleWaveVoltage V1={Vin1} V2={Vin2} Tperiod={Tperiod} tratio=1 Tdelay={Tdelay} Ncycles=0
B2 P 0 V=V(I)>=V(C) tripdt={tripdt} ic=0
.param Vin1=0 Vin2=1 Tperiod=100u Tdelay=0 tripdt=1m*Tperiod
.ends PWM

.subckt PWMf T P
B1 P 0 V=idtmod(1,0,V(T),{Tdelay})<V(T)*{duty} tripdt={tripdt} tripdv={1-1n} ic=0
.param Tdelay=0 tripdt=1m/200k duty=0.5
.ends PWMf

.subckt 3PhaseComplementaryPWM U V W up un vp vn wp wn
X1 CN 0 TriangleWaveVoltage V1={Vin1} V2={Vin2-Vdead} Tperiod={Tperiod} tratio=0.5 Tdelay={Tdelay} Ncycles=0
V1 CP CN {Vdead}
B1 up 0 V=V(U)>=V(CP) tripdt={tripdt} ic=0
B2 un 0 V=V(U)<=V(CN) tripdt={tripdt} ic=0
B3 vp 0 V=V(V)>=V(CP) tripdt={tripdt} ic=0
B4 vn 0 V=V(V)<=V(CN) tripdt={tripdt} ic=0
B5 wp 0 V=V(W)>=V(CP) tripdt={tripdt} ic=0
B6 wn 0 V=V(W)<=V(CN) tripdt={tripdt} ic=0
.param Vin1=-1 Vin2=1 Tperiod=100u Tdead=1u Tdelay=0 tripdt=1*Tdead
.param Vdead=2*(Vin2-Vin1)/(Tperiod/Tdead+2)
.ends 3PhaseComplementaryPWM

.subckt ComplementaryBufferWithDeadtime I P N
B1 P 0 V=idt(1,0,inv(V(I)))>Tdead tripdt={tripdt}
B2 N 0 V=idt(1,0,buf(V(I)))>Tdead tripdt={tripdt}
.param Tdead=1u tripdt=1*Tdead
.ends ComplementaryBufferWithDeadtime

.subckt RisingEdgeDetector I P
A1 I 0 0 0 0 0 P1 0 BUF Td={Tedge}
B1 P 0 V=buf(V(I))&inv(V(P1)) tripdt={tripdt}
.param Tedge=1u tripdt=0.1*Tedge
.ends RisingEdgeDetector

.subckt FallingEdgeDetector I P
A1 I 0 0 0 0 0 P1 0 BUF Td={Tedge}
B1 P 0 V=inv(V(I))&buf(V(P1)) tripdt={tripdt}
.param Tedge=1u tripdt=0.1*Tedge
.ends FallingEdgeDetector

.subckt BothEdgesDetector I P
A1 I 0 0 0 0 0 P1 0 BUF Td={Tedge}
B1 P 0 V=buf(V(I))^buf(V(P1)) tripdt={tripdt}
.param Tedge=1u tripdt=0.1*Tedge
.ends BothEdgesDetector

.subckt PulseTimer I P
B1 P1 0 V=idt(F0,ic*(F0/F),buf(V(I))) tripdt={tripdt} tripdv={tripdv}
E1 P 0 P1 0 {F/F0}
.param F=1 ic=0
.param F0=1Meg
.param tripdt=1e300 tripdv=1
.ends PulseTimer

.subckt OnOffDelay I P
B1 P1 0 V=(
+ if(time<=0, buf(V(I)),
+ if(idt(1,0,inv(buf(V(I))^V(P)))>max(0,if(V(P),Toff,Ton)), inv(V(P)),
+ V(P)
+ )) )
+ tripdt={tripdt}
A1 P1 0 0 0 0 0 P2 0 BUF
E1 P 0 P2 0 1
.param Ton=1u Toff=1u tripdt={0.1*if(Ton<=0,Toff,if(Toff<=0,Ton,min(Ton,Toff)))}
.ends OnOffDelay

.subckt OnOffDelay2 I Ton Toff P
B1 P1 0 V=(
+ if(time<=0, buf(V(I)),
+ if(idt(1,0,inv(buf(V(I))^V(P)))>max(0,if(V(P),V(Toff),V(Ton))), inv(V(P)),
+ V(P)
+ )) )
+ tripdt={tripdt}
A1 P1 0 0 0 0 0 P2 0 BUF
E1 P 0 P2 0 1
.param tripdt=1u
.ends OnOffDelay2
